US06211215B1
In substantially the same manner as in Reference Example 47, 4-benzoylbenzamide was allowed to react with 1,3-dichloroacetone to give 2-(4-benzoylphenyl)-4-chloromethyloxazole. The yield was 46%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 138-139° C.

reactant | 4-benzoylbenzamide | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)N)C=C1 | C14H11NO2
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
product | 2-(4-benzoylphenyl)-4-chloromethyloxazole | yield was 46% | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)C=1OC=C(N1)CCl | C17H12ClNO2
